US04514212
2-(2-Chloroethoxy)-phenylsulfonamide
A mixture of 9.0 g of 2-hydroxyphenylsulfonamide, 7.9 g of potassium carbonate, 13.3 g of 2-chloroethyl p-toloylsulfonate and 80 ml of ethylmethylketone is refluxed for 40 hours. The reaction mixture is cooled to room temperature, filtrated and evaporated to dryness. From the oily residue crystallise after addition of a small portion of methylene chloride 7.0 g of 2-(2-chloroethoxy)-phenylsulfonamide, m.p. 110° C.

reactant | 2-hydroxyphenylsulfonamide | 9.0 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium carbonate | 7.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl p-toloylsulfonate | 13.3 g | C1(=CC=C(C=C1)C(=O)S(=O)(=O)OCCCl)C | C10H11ClO4S
solvent | ethylmethylketone | 80 ml | C(C)C(=O)C | C4H8O
product | 2-(2-Chloroethoxy)-phenylsulfonamide | ClCCOC1=C(C=CC=C1)S(=O)(=O)N | C8H10ClNO3S
